US05175166
2-Amino-6-methoxycarbonyl-3,4,5,6-tetrahydropyridine HCL
2-Amino-3,4,5,6-tetrahydropyridine-6-carboxylic acid HCl (1.99 g, 11.1 mmol) was suspended in anhydrous methanol (100 ml), and thionyl chloride (0.8 ml, 11.lmmol) was added dropwise with stirring at room temperature. The resulting solution was refluxed overnight and then evaporated to dryness in vacuo. The resulting crude white solid was recrystallized from ethanol to give white crystals 656 mg (31%) mp 132°-134° C., identified as product by 300 MHz nmr and ir 1753 cm-1. Calculated: C 43.64, H 6.8, N 14.55; found: C 43.80, H 6.81, N 14.46.

reactant | 2-Amino-3,4,5,6-tetrahydropyridine-6-carboxylic acid HCl | 11.1 mmol, 1.99 g | Cl.NC1=NC(CCC1)C(=O)O
reactant | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | 2-Amino-6-methoxycarbonyl-3,4,5,6-tetrahydropyridine HCL | 656 mg, 31% | Cl.NC1=NC(CCC1)C(=O)OC | InChI=1S/C7H12N2O2.ClH/c1-11-7(10)5-3-2-4-6(8)9-5;/h5H,2-4H2,1H3,(H2,8,9);1H
